US06120653
Into a reaction vessel equipped with a stirrer, gas blowing tube, thermometer and condenser is fed cresol into which sulfuric acid has been dissolved (sulfuric acid is dissolved in 1.2% by weight based on 100% by weight of cresol) at 795 g/hr, further, butylation reaction is conducted for 8 hours at 65° C. under normal pressure with blowing in an isobutyrene mixed gas containing 1-butene, 2-butene and the like, and the resulted butylated reaction mixture is neutralized with an aqueous NaOH solution. For the neutralization, 1.5 equivalent NaOH is added per charged sulfuric acid and the treatment is conducted for 3 hours at 110° C., then an aqueous layer is separated, and the resulted oil layer is washed with water to obtain 11.79 kg of t-butylcresol mixture (cresolcontent6.4%, 4M2B contentl6.3%, 3M6B content 13.3%, dibutylated isomer content 58.6%, content of other components 5.4%).

reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1-butene | C=CCC | C4H8
reactant | 2-butene | CC=CC | C4H8
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 1.5 equivalent | [OH-].[Na+]
product | t-butylcresol | 11.79 kg | C(C)(C)(C)C1=C(C(=CC=C1)O)C | C11H16O
